US06333296B1
Synthesis of 1-amino-3-[4-chloro-2-fluoro-5-(3-nitro-2-pyridyloxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (Compound 9-1) (Process 15).
A suspension of potassium carbonate (0.23 g), 3-[4-chloro-2-fluoro-5-(3-nitro-2-pyridyloxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (0.5 g) and 2,4-dinitrophenoxyamine (0.32 g) in N,N-dimethylformamide (10 ml) was stirred at room temperature overnight. The solution was processed and the resulting oil chromatographed on silica gel eluting with methanol:methylene chloride, 2:98. The product was isolated as a yellow semi-solid (0.3 g), mp 90-6° C.

reactant | potassium carbonate | 0.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-[4-chloro-2-fluoro-5-(3-nitro-2-pyridyloxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 0.5 g | ClC1=CC(=C(C=C1OC1=NC=CC=C1[N+](=O)[O-])N1C(NC(=CC1=O)C(F)(F)F)=O)F | C16H7ClF4N4O5
reactant | 2,4-dinitrophenoxyamine | 0.32 g | [N+](=O)([O-])C1=C(ON)C=CC(=C1)[N+](=O)[O-] | C6H5N3O5
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-amino-3-[4-chloro-2-fluoro-5-(3-nitro-2-pyridyloxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 0.3 g | NN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1)OC1=NC=CC=C1[N+](=O)[O-])Cl)F)=O | C16H8ClF4N5O5
